US08003662B2
Step C: Preparation of 2-benzyl-5-bromopyrimidin-4(3H)-one:
To a solution of 2-benzylpyrimidin-4(3H)-one (0.531 g, 2.85 mmol) in CHCl3 (15 mL) and methanol (3 mL) was added bromine (0.146 mL, 2.85 mmol). The reaction mixture was stirred at room temperature for 3 hours and then quenched with 10% sodium bisulfite solution. The reaction mixture was partitioned between EtOAc and H2O. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude yellow solid. Purification of the crude product was achieved by trituration with dichloromethane. The resulting solid was filtered, washed with dichloromethane, collected and dried under vacuum to yield the desired product (0.302 g, 40%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.23 (br s, 1H), 8.25 (s, 1H), 7.35-7.28 (m, 4H), 7.27-7.22 (m, 1H), 3.87 (s, 2H). LRMS (ESI pos) m/e 265, 267 (M+1, Br pattern).

reactant | 2-benzylpyrimidin-4(3H)-one | 2.85 mmol, 0.531 g | C(C1=CC=CC=C1)C1=NC=CC(N1)=O | C11H10N2O
reactant | bromine | 2.85 mmol, 0.146 mL | BrBr | Br2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 mL | CO | CH4O
product | 2-benzyl-5-bromopyrimidin-4(3H)-one | 0.302 g, 40% | C(C1=CC=CC=C1)C1=NC=C(C(N1)=O)Br | C11H9BrN2O
